US04758590
To a stirred solution of 4.1 grams (0.023 mole) of 2,4,6-trifluorobenzoic acid in 50 ml of anhydrous tetrahydrofuran, under a nitrogen atmosphere was added dropwise 4.0 grams (0.047 mole) of borane-tetrahydrofuran complex (as 46.6 ml of a 1.0 molar solution in tetrahydrofuran). The addition caused the reaction mixture to foam. Upon completion of addition the reaction mixture was stirred at ambient temperature for two hours, then was heated under reflux for one hour. The reaction mixture was cooled and 50 ml of water was cautiously added. The tetrahydrofuran was removed under reduced pressure and the residue washed into a separatory funnel with 100 ml of aqueous 2N sodium hydroxide. The mixture was extracted with three 100 ml portions of methylene chloride. The combined extracts were dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to give 3.2 grams of 2,4,6-trifluorophenylmethyl alcohol as an oil.

reactant | 2,4,6-trifluorobenzoic acid | 0.023 mole, 4.1 grams | FC1=C(C(=O)O)C(=CC(=C1)F)F | C7H3F3O2
reactant | water | 50 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2,4,6-trifluorophenylmethyl alcohol | 3.2 grams | FC1=C(C(=CC(=C1)F)F)CO | C7H5F3O
